US07572820B2
1-({5-[2-Chloro-5-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}methyl)-4-(trifluoromethyl)-1H-indole-5-carbonitrile
2-Chloro-5-(trifluoromethyl)benzoyl chloride (0.017 g, 0.071 mmol), Et3N (0.008 g. 0.078 mmol) and 2-[5-cyano-4-(trifluoromethyl)-1H-indol-1-yl]-N-hydroxyethanimidamide (0.020 g, 0.071 mmol) were combined in CH3CN (1.5 mL). After stirring at rt for 1 h, the mixture was heated to 150° C. in a microwave for 10 min. Purification (SiO2, EtOAc/hexanes) afforded the title compound (0.025 g): MS (ESI): m/z 469 (M−1).

reactant | 2-Chloro-5-(trifluoromethyl)benzoyl chloride | 0.071 mmol, 0.017 g | ClC1=C(C(=O)Cl)C=C(C=C1)C(F)(F)F | C8H3Cl2F3O
reactant | Et3N | 0.078 mmol, 0.008 g | CCN(CC)CC | C6H15N
reactant | 2-[5-cyano-4-(trifluoromethyl)-1H-indol-1-yl]-N-hydroxyethanimidamide | 0.071 mmol, 0.020 g | C(#N)C=1C(=C2C=CN(C2=CC1)CC(NO)=N)C(F)(F)F | C12H9F3N4O
solvent | CH3CN | 1.5 mL | CC#N | C2H3N
product | 1-({5-[2-Chloro-5-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}methyl)-4-(trifluoromethyl)-1H-indole-5-carbonitrile | 0.025 g | ClC1=C(C=C(C=C1)C(F)(F)F)C1=NC(=NO1)CN1C=CC2=C(C(=CC=C12)C#N)C(F)(F)F | C20H9ClF6N4O
